US05514711
To 2N aqueous sodium hydroxide solution (175 ml, 350 mmol) heated at 60° C. were added cyanoacetic acid (7.2 g, 86.7 mmol) and 3, 4-dihydroxybenzaldehyde (12.0 g, 86.9 mmol), and the resulting mixture was stirred for 30 minutes. The reaction mixture was allowed to cool at room temperature and gradually mixed with dilute hydrochloric acid until the reaction mixture became acidic. The product was filtered and dried to give α-cyano-3, 4-dihydroxycinnamic acid (hereinafter referred to as "Compound A" (10.0 g, 56% in yield).

reactant | sodium hydroxide | 350 mmol, 2N, 175 ml | [OH-].[Na+]
reactant | cyanoacetic acid | 86.7 mmol, 7.2 g | C(#N)CC(=O)O | C3H3NO2
reactant | 3, 4-dihydroxybenzaldehyde | 86.9 mmol, 12.0 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | hydrochloric acid | Cl | ClH
product | α-cyano-3, 4-dihydroxycinnamic acid | C(#N)C(C(=O)O)=CC1=CC(=C(C=C1)O)O | C10H7NO4
